US08664401B2
Step A) Ethyl 2-(methylsulfonyl)butanoate
Ethyl(methylsulfonyl)acetate (0.79 mL, 5.8 mmol, 1.0 equiv) was added dropwise via syringe to a mixture of sodium hydride (0.25 g 60% in mineral oil, 6.1 mmol, 1.1 equiv) in DMF (20 mL) at room temperature. The mixture was allowed to stir for 30 min, after which time 1-iodoethane (0.48 mL, 5.8 mmol, 1.0 equiv) was added. The reaction was allowed to stir overnight. A solution of saturated ammonium chloride (10 mL) and water (10 mL) were added, and the resulting mixture was extracted with diethyl ether (1×25 mL). The organic phase was separated, washed with water (1×10 mL), brine (1×5 mL), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The crude material was purified by flash chromatography (2:1-0:1 heptane/ethyl acetate) to provide a white solid (0.29 g, 26%). MS (LCMS) m/z 195.4 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.05 (t, J=7.41 Hz, 3H) 1.33 (t, J=7.12 Hz, 3H) 1.99-2.25 (m, 2H) 2.99 (s, 3H) 3.66 (dd, J=10.54, 3.90 Hz, 1H) 4.30 (q, J=7.22 Hz, 2H).

reactant | Ethyl(methylsulfonyl)acetate | 5.8 mmol, 0.79 mL, 1.0 equiv | C(C)OC(CS(=O)(=O)C)=O | C5H10O4S
reactant | sodium hydride | 6.1 mmol, 0.25 g, 1.1 equiv | [H-].[Na+]
reactant | 1-iodoethane | 5.8 mmol, 0.48 mL, 1.0 equiv | ICC | C2H5I
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | Ethyl 2-(methylsulfonyl)butanoate | 0.29 g, 26% | CS(=O)(=O)C(C(=O)OCC)CC | C7H14O4S
